US06225320B1
3-Bromo-2-hydroxy-5-nitropyridine
2-Hydroxy-5-nitropyridine (10.0 g, 71 mmol) in chloroform (200 ml) and acetic acid (10 ml) was treated with bromine (3.7 ml, 72 mmol) and then refluxed for 24 hrs. More bromine (3.7 ml, 72 mmol) was added and the mixture refluxed for a further 48 hrs, then cooled. Ethyl acetate (150 ml) was added and the solid formed removed by filtration, washed with ethyl acetate (50 ml) and dried to give the product as an off-white powder (8.5 g).

reactant | 2-Hydroxy-5-nitropyridine | 71 mmol, 10.0 g | OC1=NC=C(C=C1)[N+](=O)[O-] | C5H4N2O3
reactant | bromine | 72 mmol, 3.7 ml | BrBr | Br2
reactant | bromine | 72 mmol, 3.7 ml | BrBr | Br2
reactant | Ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-2-hydroxy-5-nitropyridine | 8.5 g | BrC=1C(=NC=C(C1)[N+](=O)[O-])O | C5H3BrN2O3
